US06716851B2
4-(5-Hydroxy-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 5-hydroxy-2-methylaniline (36 mg, 0.290 mmol) similar to Example 117 and isolated as a tan solid (19 mg, 28%). 1H NMR (Acetone-d6): 8.91 (s, 1H), 8.75 (dd, J=1.2, 4.8 Hz, 2H), 8.55 (s, 1H), 8.22 (dd, J=1.8, 4.8 Hz, 2H), 7.23 (s, 1H), 7.18 (d, J=8.1 Hz, 1H), 7.02 (s, 1H), 6.76 (dd, J=3.0, 8.7 Hz, 1H), 2.23 (s, 3H).

reactant | 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 5-hydroxy-2-methylaniline | 0.290 mmol, 36 mg | OC=1C=CC(=C(N)C1)C | C7H9NO
product | 4-(5-Hydroxy-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | OC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C1)C | C17H13F3N4O
